US06030972
(f) N-Boc-5-aminomethyl-2-cyanopyrimidine
1 Eq. of N-Boc-5-aminomethyl-2-methylsulfonylpyrimidine was dissolved in DMF and introduced into a reflux apparatus. After addition of 2 eq. of KCN and catalytic amounts of 18-crown-6, the reaction mixture was stirred at 60° C. for 4 h. The suspension was then concentrated and poured into 200 ml of water. The precipitated solid was filtered off with suction and dissolved in ethyl acetate. The solution was washed with water and saturated NaCl solution, dried and evaporated in a rotary evaporator. N-Boc-5-aminomethyl-2-cyanopyrimidine was used as crude product without further purification in the next reaction. Yield: 46%.

reactant | N-Boc-5-aminomethyl-2-methylsulfonylpyrimidine | 1 Eq. | C(=O)(OC(C)(C)C)N1C(N=CC(=C1)CN)S(=O)(=O)C | C11H19N3O4S
reactant | KCN | 2 eq. | [C-]#N.[K+]
reactant | 18-crown-6 | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | DMF | CN(C)C=O | C3H7NO
product | N-Boc-5-aminomethyl-2-cyanopyrimidine | Yield: 46% | C(=O)(OC(C)(C)C)N1C(N=CC(=C1)CN)C#N | C11H16N4O2
